US04701548
PREPARATION OF PHENYLPROPYL MERCAPTOACETATE
Into a 100 ml flask equipped with reflux condenser, thermometer, hot plate (including magnetic stirring apparatus within) and spin bar are placed 13.6 grams phenylpropyl alcohol; 4 grams of mercaptoacetic acid; and 0.1 grams para-toluene sulphonic acid.

reactant | phenylpropyl alcohol | 13.6 grams | C1(=CC=CC=C1)CCCO | C9H12O
reactant | mercaptoacetic acid | 4 grams | SCC(=O)O | C2H4O2S
reactant | para-toluene sulphonic acid | 0.1 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | PHENYLPROPYL MERCAPTOACETATE | SCC(=O)OCCCC1=CC=CC=C1 | C11H14O2S
